US08563717B2
6-Amino-2-(butyloxy)-9-[3-(1-propyl-3-piperidinyl)propyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 14 from 2-(butyloxy)-8-(methyloxy)-9-[3-(3-piperidinyl)propyl]-9H-purin-6-amine and 1-iodopropane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-[3-(3-piperidinyl)propyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCC1CNCCC1)OC)N | C18H30N6O2
reactant | 1-iodopropane | ICCC | C3H7I
product | 6-Amino-2-(butyloxy)-9-[3-(1-propyl-3-piperidinyl)propyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCC1CN(CCC1)CCC)=O | C20H34N6O2
